US07750154B2
A stirred mixture of 2-amino-5-iodobenzoic acid (1.0 g), trimethyl orthoformate (0.83 ml), and acetic acid (0.022 ml) in toluene (15 ml) was heated under reflux for 2 hours. 3-Amino-N-cyclopropyl-4-methylbenzamide (0.65 g) was added to the reaction mixture and stirred at reflux for 16 hours. The reaction mixture was allowed to cool and diluted with ethyl acetate. The organic solution was then washed with 1N HCl solution, 2N NaOH solution (x 2), brine, dried (magnesium sulfate), and concentrated to give N-cyclopropyl-3-(6-iodo-4-oxoquinazolin-3(4H)-yl)-4-methylbenzamide (AZ12233711) (1.22 g) as an off white solid; NMR Spectrum: (DMSOd6) 0.56 (m, 2H), 0.70 (m, 2H), 2.14 (s, 3H), 2.85 (m, 1H), 7.52 (d, 1H), 7.58 (d, 1H), 7.88 (s, 1H), 7.92 (d, 1H), 8.20 (d, 1H), 8.34 (s, 1H), 8.42 (d, 1H), 8.49 (s, 1H); Mass Spectrum: M+H+ 446.

reactant | 2-amino-5-iodobenzoic acid | 1.0 g | NC1=C(C(=O)O)C=C(C=C1)I | C7H6INO2
reactant | trimethyl orthoformate | 0.83 ml | C(OC)(OC)OC | C4H10O3
reactant | acetic acid | 0.022 ml | C(C)(=O)O | C2H4O2
reactant | 3-Amino-N-cyclopropyl-4-methylbenzamide | 0.65 g | NC=1C=C(C(=O)NC2CC2)C=CC1C | C11H14N2O
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-cyclopropyl-3-(6-iodo-4-oxoquinazolin-3(4H)-yl)-4-methylbenzamide | 1.22 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)I)=O | C19H16IN3O2
